US07126015B2
are known. Ghosh et al. in J. Med. Chem. 1996, 39(17), 3278–3290, describe an enantioselective synthesis to obtain both (3R,3aS,6aR) and (3S,3aR,6aS) hexahydro-furo[2,3-b]furan-3-ol in optically pure form starting from 3(R)-diethyl malate and 3(S)-diethyl malate respectively. This process comprises several steps such as an allylation step using lithium diisopropyl amide, followed by a reduction step, and further a Swern oxidation step followed by an ozonolytic cleavage and a hydroboration step using 9-borabicyclo[3.3.1]nonane (9-BBN). Ghosh et al. also disclose a racemic synthesis of both the (3R,3aS,6aR) and (3S,3aR,6aS) enantiomers of hexahydrofuro[2,3-]furan-3-ol followed by an enzymatic resolution of the final product. This latter synthesis starts from 2,3-dihydrofuran and comprises the step of treating said intermediate with N-iodosuccinimide and allyl alcohol followed by a radical cyclisation in the presence of a catalyst i.e. cobaloxime. An ozonolytic cleavage followed by a reduction step furnished the racemic hexahydro-furo[2,3-b]furan-3-ol. Optically active compound (3R,3aS,6aR) hexahydro-furo[2,3-b]furan-3-ol is obtained after enzymatic resolution followed by silica gel chromatography. Pezeck et al. Tetrahedron Lett. 1986, 27, 3715–3718 also describes a route for the synthesis of hexahydro-furo[2,3-b]-furan-3-ol using ozonolysis. Hexahydro-furo[2,3-b]furan-3-ol is also described as an intermediate in the synthesis of optically active perhydrofuro[2,3-b]furan derivatives (Uchiyama et al., Tetrahedron Lett. 2001, 42, 4653–4656.). The key step in this procedure is the oxyselenenylation of 2,3-dihydrofuran. This procedure is suitable for use at the laboratory level, yet not amenable for scaling up. Although the two synthetic routes described by Ghosh et al. provide (3R,3aS,6aR) and (3S,3aR,6aS) hexahydro-furo[2,3-b]furan-3-ol in reasonable yields and high enantiomeric excess, they both are only feasible on a laboratory scale, but, for a number of reasons, are not amenable to industrial scaling up. For example, these known routes suffer from the disadvantage of utilizing expensive materials, heavy metals and rare compounds, such as the N-iodosuccinimide, the catalyst cobaloxime, lithium diisopropyl amide and 9-BBN. The necessary ozonolysis step has the disadvantage of producing highly reactive and shock-sensitive ozonides and peroxides making this step too dangerous to be applied on industrial scale. Furthermore ozonolysis as well as Swern oxidation are highly exothermic and, as a consequence, have to be performed at very low temperatures. The racemic route needs an enzymatic resolution in the final step of the synthesis followed by silica gel purification. Furthermore, the racemic route suffers from the disadvantage of a low overall mass balance, originating from the fact that the resolution step, leading to the final enantiomerically pure compound, occurs in the last step of the synthesis whereby only a maximum of 50% yield of desired enantiomer can be obtained. Both art-known routes also produce a lot of waste such as solvents and salts in washings operations. Thus, these known methods are not suitable for the production of optically pure stereoisomers of hexahydro-furo[2,3-b]furan-3-ol on an industrial scale.

reactant | 2,3-dihydrofuran | O1CCC=C1 | C4H6O
reactant | N-iodosuccinimide | IN1C(CCC1=O)=O | C4H4INO2
reactant | allyl alcohol | C(C=C)O | C3H6O
product | racemic hexahydro-furo[2,3-b]furan-3-ol | O1CC(C2C1OCC2)O | C6H10O3
